US06818631B1
5-ethynyl-4-methoxy-2-methyl-6-trifluoromethylpyrimidine (1.92 g) was added 6N-HCl (20 ml) with stirring and refluxed for 2 hr. After cooling to room temperature, the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with brine and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexanethyl acetate). The crude fraction was concentrated, and then washed with hexane to give 5-(1-chlorovinyl)-2-methyl-6-trifluoromethyl-3H-pyrimidin-4-one (1.62 g) as colorless crystalline solid, mp 164-166° C.

reactant | 5-ethynyl-4-methoxy-2-methyl-6-trifluoromethylpyrimidine | 1.92 g | C(#C)C=1C(=NC(=NC1C(F)(F)F)C)OC | C9H7F3N2O
reactant | HCl | 20 ml | Cl | ClH
product | 5-(1-chlorovinyl)-2-methyl-6-trifluoromethyl-3H-pyrimidin-4-one | 1.62 g | ClC(=C)C=1C(NC(=NC1C(F)(F)F)C)=O | C8H6ClF3N2O
